US05616620
b) (R)-N-[(4-Amino-3,5-dibromophenyl)methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride
Prepared analogously to Example 36b) from (R)-N-[(4-amino-3,5-dibromophenyl)methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(tert.-butyloxy)carbonyl]-ornithinamide by treating with methanolic hydrochloric acid in a quantitative yield.

reactant | (R)-N-[(4-amino-3,5-dibromophenyl)methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(tert.-butyloxy)carbonyl]-ornithinamide | NC1=C(C=C(C=C1Br)CNC([C@H](NC(=O)OC(C)(C)C)CCCNC(=N[N+](=O)[O-])N)=O)Br | C18H27Br2N7O5
reactant | hydrochloric acid | Cl | ClH
product | (R)-N-[(4-Amino-3,5-dibromophenyl)methyl]-N5 -[amino(nitroimino)methyl]-ornithinamide-hydrochloride | quantitative yield | Cl.NC1=C(C=C(C=C1Br)CNC([C@H](N)CCCNC(=N[N+](=O)[O-])N)=O)Br | InChI=1S/C13H19Br2N7O3.ClH/c14-8-4-7(5-9(15)11(8)17)6-20-12(23)10(16)2-1-3-19-13(18)21-22(24)25;/h4-5,10H,1-3,6,16-17H2,(H,20,23)(H3,18,19,21);1H/t10-;/m1./s1
